US07109216B2
To a magnetically stirred solution of tert-butyl 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-5-methylsulfonyl-1H-imidazole-4-carboxylate (4.76 g, 9.49 mmol) in CH2Cl2 (60 ml) was added excess TFA (9.40 ml, 0.2124 mol) and Et3SiH (3.8 ml, 0.0238 mol). The solution was reacted at room temperature for 16 h and concentrated in vacuo. Water was added and the formed precipitate was collected by filtration and subsequently dried to give 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-5-methylsulfonyl-1H-imidazole-4-carboxylic acid in quantitative yield, mp˜130° C. (dec); 1H-NMR (400 MHz, CDCl3) δ 3.45 (s, 3H), 3.50 (br s, 1H), 7.40 (br d, J˜8 Hz, 2H), 7.42 (dd, J=8 and 2 Hz, 1H), 7.50 (br d, J˜8 Hz, 2H), 7.59 (d, J=2 Hz, 1H), 7.61 (d, J=8 Hz, 1H).

reactant | tert-butyl 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-5-methylsulfonyl-1H-imidazole-4-carboxylate | 9.49 mmol, 4.76 g | ClC1=CC=C(C=C1)N1C(=NC(=C1S(=O)(=O)C)C(=O)OC(C)(C)C)C1=C(C=C(C=C1)Cl)Cl | C21H19Cl3N2O4S
reactant | TFA | 0.2124 mol, 9.40 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Et3SiH | 0.0238 mol, 3.8 ml | [SiH](CC)(CC)CC | C6H16Si
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-5-methylsulfonyl-1H-imidazole-4-carboxylic acid | quantitative yield | ClC1=CC=C(C=C1)N1C(=NC(=C1S(=O)(=O)C)C(=O)O)C1=C(C=C(C=C1)Cl)Cl | C17H11Cl3N2O4S
